US04812570
A mixture of 4-[2-(6-methyl-2-pyridyl)ethoxy]benzonitrile (9.62 g), Raney nickel alloy (10.0 g) and 75% formic acid (150 ml) was heated under reflux for 1 hour. The reaction mixture was filtered and the filtrate was concentrated. The residue was diluted with water, alkalinized with 4N-KOH, and extracted with ethyl ether. The ethyl ether layer was washed with water and dried (MgSO4) and the solvent was distilled off. The residue was recrystallized from ethyl etherhexane to give 4-[2-(6-methyl-2-pyridyl)ethoxy]benzaldehyde.

reactant | 4-[2-(6-methyl-2-pyridyl)ethoxy]benzonitrile | 9.62 g | CC1=CC=CC(=N1)CCOC1=CC=C(C#N)C=C1 | C15H14N2O
reactant | formic acid | 150 ml | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | 4-[2-(6-methyl-2-pyridyl)ethoxy]benzaldehyde | CC1=CC=CC(=N1)CCOC1=CC=C(C=O)C=C1 | C15H15NO2
